US07429607B2
To a solution of 3-methyl-1-(4′-fluoronaphth-1-yl)butan-1-one (7 g) in anhydrous tetrahydrofuran (80 ml) was added phenyltrimethylammonium tribromide (11.5 g). The resulting mixture was stirred overnight at ambient temperature then partitioned between petroleum ether and water. The organic layer was separated, washed with water, brine, dried with sodium sulphate, filtered and evaporated in vacuo to yield crude 2-bromo-1-(4′-fluoronaphth-1-yl)-3-methylbutan-1-one. Sodium acetate (2.75 g) and anhydrous dimethylformamide (30 ml) were added and the resulting mixture was stirred at 80° C. for 5 hours. After cooling, the mixture was partitioned between ethyl acetate and water. The aqueous layer was back-extracted once with ethyl acetate. The combined organic layers were washed with water, brine, dried with sodium sulphate, filtered and evaporated in vacuo. The title compound (4.8 g) was obtained following silica gel column chromatography of the residue in 30-100% dichloromethane in petroleum ether.

reactant | 3-methyl-1-(4′-fluoronaphth-1-yl)butan-1-one | 7 g | CC(CC(=O)C1=CC=C(C2=CC=CC=C12)F)C | C15H15FO
reactant | phenyltrimethylammonium tribromide | 11.5 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 2-bromo-1-(4′-fluoronaphth-1-yl)-3-methylbutan-1-one | BrC(C(=O)C1=CC=C(C2=CC=CC=C12)F)C(C)C | C15H14BrFO
